US04065290
3-(3-bromophenyl)-1-methyl-5-phenyl-4-piperidinone
A 10 g. portion of 3-(3-bromophenyl)-1-methyl-5-phenyl-4(1H)-pyridinone was made from 22 g. of the corresponding 2-propanone as described in Examples 1-3. The pyridinone was reduced with 2 g. of lithium aluminum hydride as described in the examples above, and the reaction mixture was chromatographed as described above with benzene-ethyl acetate mixtures. The combined yield of the compounds of Examples 13 and 13a was 4 g., molecular weight 341 by mass spectroscopy. The yield of the compound of Example 14 was 0.5 g., molecular weight by mass spectroscopy 343.

reactant | 3-(3-bromophenyl)-1-methyl-5-phenyl-4(1H)-pyridinone | BrC=1C=C(C=CC1)C1=CN(C=C(C1=O)C1=CC=CC=C1)C | C18H14BrNO
reactant | pyridinone | N1C(C=CC=C1)=O | C5H5NO
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | 2-propanone | CC(C)=O | C3H6O
product | 3-(3-bromophenyl)-1-methyl-5-phenyl-4-piperidinone | BrC=1C=C(C=CC1)C1CN(CC(C1=O)C1=CC=CC=C1)C | C18H18BrNO
